US05889008
To a solution of 3-(fluoro)phenethyl alcohol (3.8 g, 27.0 mmol), in anhydrous dichloromethane (100 ml), cooled to 0° C., was added carbon tetrabromide (11.25 g, 34.0 mmol) and triphenylphosphine (10.62 g, 41.0 mmol). After stirring for 0.5 h the solvent was removed in vacuo and diethyl ether (100 ml) was added to the residue. The resultant precipitate was removed by filtration, the filtrate evaporated under reduced pressure and the crude product chromatographed on silica-gel eluting with ethyl acetate/hexane (1:1) to give 3-(fluoro)phenethyl bromide (5.51 g, 100%), δ (250 MHz, CDCl3) 3.16 (2H, t, J=7.4 Hz, CH2), 3.57 (2H, t, J=7.4 Hz, CH2), 6.91-7.01 (3H, m, Ar--H), 7.24-7.33 (1H, m, Ar--H).

reactant | 3-(fluoro)phenethyl alcohol | 27.0 mmol, 3.8 g | FC=1C=C(CCO)C=CC1 | C8H9FO
reactant | carbon tetrabromide | 34.0 mmol, 11.25 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 41.0 mmol, 10.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(fluoro)phenethyl bromide | 5.51 g, 100% | FC=1C=C(CCBr)C=CC1 | C8H8BrF
